US06583155B2
To a solution of 2-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyrazine (76 mg, 0.220 mmol) and 4-piperidin-4-yl-4H-benzo[1,4]oxazin-3-one (61 mg, 0.231 mmol) in EtOH (1.1 mL) was added triethylamine (0.031 mL, 0.220 mmol). The reaction mixture was heated to 80° C. overnight, concentrated, and purified by column chromatography (silica, 5-10% MeOH/CH2Cl2) to afford 4-(1-{2-hydroxy-3-[4-pyrazin-2-yl-3-(4-trifluoromethyl-phenyl)-pyrazol-1-yl]-propyl}-piperidin-4-yl)-4H-benzo[1,4]oxazin-3-one (27 mg, 21%). TLC (silica, 5% MeOH/CH2Cl2): Rf=0.09. MS (electrospray): m/z 579.2 (579.2, calculated for C30H29F3N6O3, M++H). 1H NMR (400 MHz, CDCl3): 8.53 (s, 1H), 8.48 (s, 1H), 8.40 (s, 1H), 8.11 (s, 1H), 7.73 (d, J=8.2 Hz, 2H), 7.63 (d, J=8.2 Hz, 2H), 7.16 (d, J=5.4 Hz, 1H), 7.00-7.03 (m, 3H), 4.49 (s, 2H), 4.39 (d, J=10.8 Hz, 1H), 3.13 (d, J=11.9 Hz, 1H), 2.96 (d, J=11.9 Hz, 1H), 2.59-2.80 (m, 2H), 2.40-2.55 (m, 3H), 2.17 (t, J=11.9 Hz, 1H), 1.77 (d, J=11.9 Hz, 2H).

reactant | 2-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyrazine | 0.220 mmol, 76 mg | O1C(C1)CN1N=C(C(=C1)C1=NC=CN=C1)C1=CC=C(C=C1)C(F)(F)F | C17H13F3N4O
reactant | 4-piperidin-4-yl-4H-benzo[1,4]oxazin-3-one | 0.231 mmol, 61 mg | N1CCC(CC1)N1C(COC2=C1C=CC=C2)=O | C13H16N2O2
reactant | triethylamine | 0.220 mmol, 0.031 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 1.1 mL | CCO | C2H6O
product | 4-(1-{2-hydroxy-3-[4-pyrazin-2-yl-3-(4-trifluoromethyl-phenyl)-pyrazol-1-yl]-propyl}-piperidin-4-yl)-4H-benzo[1,4]oxazin-3-one | 27 mg, 21% | OC(CN1CCC(CC1)N1C(COC2=C1C=CC=C2)=O)CN2N=C(C(=C2)C2=NC=CN=C2)C2=CC=C(C=C2)C(F)(F)F | C30H29F3N6O3
